US07297795B2
To a suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide (1.75 g, 6.75 mmol) in 8.2 mL of iso-propanol was added triethylorthoformate (1.5 g, 10.1 mmol). The mixture was heated to reflux. After 20 minutes, 4-methoxy-3-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenylamine in 20 mLs of iso-propanol was added dropwise so as to maintain reflux. After 26 hours, the reaction was cooled to room temperature and the suspended solids were filtered. The solids were rinsed with iso-propanol until effluent was colorless. The yellow solid was dried in vacuo to give 3.45 g (93%) of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-{4-methoxy-3-[3-(4-methylpiperazin-1-yl)-propoxy]-phenylamino}-acrylamide as a mixture of isomers. 1H NMR (300 MHz, CDCl3) δ 11.35 (br d, 1H), 8.17 (m, 2H), 7.76 (d, 1H), 7.41 (s, 1H), 6.88 (m, 1H) 6.69 (m, 2H), 4.10 (t, J=7 Hz, 2H), 3.96 (s, 3H), 3.87 (s, 3), 2.55 (t, J=7 Hz, 2H), 2.48 (m, 8H), 2.29 (s, 3H), 2.06 (m, 2H); MS (ES) m/z548.1 (M+)

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide | 6.75 mmol, 1.75 g | C(#N)CC(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C10H8Cl2N2O2
reactant | triethylorthoformate | 10.1 mmol, 1.5 g | C(C)OC(OCC)OCC | C7H16O3
reactant | 4-methoxy-3-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenylamine | COC1=C(C=C(C=C1)N)OCCCN1CCN(CC1)C | C15H25N3O2
solvent | iso-propanol | 8.2 mL | C(C)(C)O | C3H8O
solvent | iso-propanol | 20 mLs | C(C)(C)O | C3H8O
product | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-{4-methoxy-3-[3-(4-methylpiperazin-1-yl)-propoxy]-phenylamino}-acrylamide | 3.45 g, 93% | C(#N)C(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)=CNC1=CC(=C(C=C1)OC)OCCCN1CCN(CC1)C | C26H31Cl2N5O4
